US06432990B1
3,6-Dichloro-2-(2-ethoxyethyl)-pyridine (1.18 g, 5.00 mmol) was dissolved in 25 mL DMSO, treated with NaSCH3 (0.53 g, 7.5 mmol), and stirred at room temperature overnight. The mixture was diluted with brine, then extracted with, EtOAc. The combined EtOAc extracts were combined, dried over Na2SO4, and concentrated in vacuo to yield 3-chloro-2-(ethoxyethyl)-6-(methylthio)pyridine (0.91 g, 76%) as a yellow oil, used without further purification.

reactant | 3,6-Dichloro-2-(2-ethoxyethyl)-pyridine | 5.00 mmol, 1.18 g | ClC=1C(=NC(=CC1)Cl)CCOCC | C9H11Cl2NO
reactant | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 3-chloro-2-(ethoxyethyl)-6-(methylthio)pyridine | 0.91 g, 76% | ClC=1C(=NC(=CC1)SC)CCOCC | C10H14ClNOS
